US05679696
A stirred solution of 3-cyclopentyloxy-4-methoxyaniline (1 g) and triethylamine (0.69 mL) in dry dichloromethane (20 mL) at 0° C. is treated dropwise with 2,6-dichlorobenzoyl chloride (1.17 g). After stirring at this temperature for 30 minutes, the mixture is warmed to room temperature and stirred for a further 3 hours. The organic layer is washed with water (100 mL), dried and concentrated. The residue is recrystallized from a mixture of isopropanol and hexane, to give N-(3-cyclopentyloxy-4-methoxyphenyl)-2,6-dichlorobenzamide (0.6 g), m.p. 184°-185° C. [Elemental analysis: C,60.2,H,5.0; N,3.6; Cl,18.9%; calculated: C,60.0; H,5.0; N,3.7; Cl, 18.65%].

reactant | 3-cyclopentyloxy-4-methoxyaniline | 1 g | C1(CCCC1)OC=1C=C(N)C=CC1OC | C12H17NO2
reactant | triethylamine | 0.69 mL | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichlorobenzoyl chloride | 1.17 g | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-(3-cyclopentyloxy-4-methoxyphenyl)-2,6-dichlorobenzamide | 0.6 g | C1(CCCC1)OC=1C=C(C=CC1OC)NC(C1=C(C=CC=C1Cl)Cl)=O | C19H19Cl2NO3
